US07223764B2
1-[2-(5-Fluorobenzimidazol-2-ylthio)ethyl]piperazine tris(trifluoroacetic acid) salt (6.92 g, 11.12 mmol) and 2-bromo-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]acetamide (4.50 g, 10.59 mmol) were suspended in acetonitrile (90 mL), and potassium carbonate (5.85 g, 42.33 mmol) was gradually added to the suspension. The mixture was stirred for five hours at room temperature, and water (100 mL) was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and then dried over sodium sulfate anhydrate, followed by concentration under reduced pressure. The residue was purified through silica gel column chromatography (chloroform:methanol=50:1). The thus-obtained crystals were recrystallized from acetone-ether, to thereby yield 2-[4-[2-(5-fluorobenzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]acetamide (4.72 g, yield 71%) as pale brown prisms.

reactant | 1-[2-(5-Fluorobenzimidazol-2-ylthio)ethyl]piperazine tris(trifluoroacetic acid) salt | 11.12 mmol, 6.92 g | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.FC1=CC2=C(N=C(N2)SCCN2CCNCC2)C=C1
reactant | 2-bromo-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]acetamide | 10.59 mmol, 4.50 g | BrCC(=O)NC=1C(=NC(=CC1OCC(F)(F)F)C)OCC(F)(F)F | C12H11BrF6N2O3
reactant | potassium carbonate | 42.33 mmol, 5.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
product | 2-[4-[2-(5-fluorobenzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]acetamide | 4.72 g, yield 71% | FC1=CC2=C(N=C(N2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2OCC(F)(F)F)C)OCC(F)(F)F)C=C1 | C25H27F7N6O3S
